US08865321B2
Synthesis of N,N′-bis(biphenyl-4-yl)-1,2-benzenediamine
The synthesis is carried out in accordance with the general procedure in accordance with Example 2 from 56.6 g (240 mmol) of 1,2-dibromobenzene and 85.4 g (505 mmol) of 4-aminobiphenyl. The precipitated solid is recrystallised from toluene/acetonitrile (5:1), and the residue is washed with MeOH, giving 78 g (189 mmol) of a crystalline solid. The overall yield is 80%.

reactant | 1,2-dibromobenzene | 240 mmol, 56.6 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | 4-aminobiphenyl | 505 mmol, 85.4 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
product | N,N′-bis(biphenyl-4-yl)-1,2-benzenediamine | 189 mmol, 78 g, yield is 80% | C1(=CC=C(C=C1)NC=1C(=CC=CC1)NC1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H24N2
